US07700625B2
To (5-isopropyl-2,4-dimethoxy-phenyl)-(5-vinyl-1,3-dihydro-isoindol-2-yl)-methanone (0.80 g, 2.28 mmol) in DCM (22 ml) was added mCPBA (0.61 g, 2.73 mmol) at 0° C. The reaction was stirred at room temperature for an hour. The reaction was diluted with NaOH (1M, aq.) and extracted the product with EtOAc. The EtOAc layer was washed with NaOH again. The organic layer was washed with brine and dried over MgSO4. The product was filtered and evaporated to dryness to yield crude (5-isopropyl-2,4-dimethoxy-phenyl)-(5-oxiranyl-1,3-dihydro-isoindol-2-yl)-methanone as a very pale yellow oil. MS: [M+H]+ 368.

reactant | (5-isopropyl-2,4-dimethoxy-phenyl)-(5-vinyl-1,3-dihydro-isoindol-2-yl)-methanone | 2.28 mmol, 0.80 g | C(C)(C)C=1C(=CC(=C(C1)C(=O)N1CC2=CC=C(C=C2C1)C=C)OC)OC | C22H25NO3
reactant | mCPBA | 2.73 mmol, 0.61 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 22 ml | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1M | [OH-].[Na+]
product | (5-isopropyl-2,4-dimethoxy-phenyl)-(5-oxiranyl-1,3-dihydro-isoindol-2-yl)-methanone | C(C)(C)C=1C(=CC(=C(C1)C(=O)N1CC2=CC=C(C=C2C1)C1OC1)OC)OC | C22H25NO4
